US07538101B2
step 2: [6-Bromo-1-(2-hydroxy-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone
A mixture of [6-bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone (130 mg, 1.0 eq.) and trifluoroacetic acid in dichloromethane was stirred for 1 h at room temperature and concentrated in vacuo. The crude mixture was partitioned between an aqueous solution of sodium hydroxide and dichloromethane. The aqueous layer was extracted with dichloromethane. Combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo, to yield 106 mg (99%) of the desired product as white foam. MS (m/e): 542.1 (M+H, 100%).

reactant | [6-bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone | 130 mg, 1.0 eq. | BrC1=C(C=C2C=C(N(C2=C1)CCO[Si](C)(C)C(C)(C)C)C(=O)N1CCS(CC1)(=O)=O)OC1CCN(CC1)C(C)C | C29H46BrN3O5SSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [6-Bromo-1-(2-hydroxy-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone | 106 mg, 99% | BrC1=C(C=C2C=C(N(C2=C1)CCO)C(=O)N1CCS(CC1)(=O)=O)OC1CCN(CC1)C(C)C | C23H32BrN3O5S
